US04728653
A solution of 6-bromo-2-chloro-8-methylquinoline (10.7 g) in methanol (80 cm3) was heated under reflux with a solution of sodium methoxide [made from sodium (2.76 g) in methanol (50 cm3)] for 24 hours. The cooled solution was then evaporated in vacuo and the residue was partitioned between chloroform (100 cm3) and water (50 cm3). The aqueous phase was further extracted with chloroform (2×50 cm3) and the combined and dried (MgSO4) organic phases were evaporated in vacuo to give a solid which was recrystallised from ethyl acetate:hexane, 1:9, to afford 6-bromo-2-methoxy-8-methylquinoline, m.p. 89°-91° (8.3 g).

reactant | 6-bromo-2-chloro-8-methylquinoline | 10.7 g | BrC=1C=C2C=CC(=NC2=C(C1)C)Cl | C10H7BrClN
reactant | sodium methoxide | 50 cm3, 2.76 g | C[O-].[Na+]
solvent | methanol | 80 cm3 | CO | CH4O
product | 6-bromo-2-methoxy-8-methylquinoline | BrC=1C=C2C=CC(=NC2=C(C1)C)OC | C11H10BrNO
